US06211215B1
In substantially the same manner as in Working Example 37, 1-[4-(4-hydroxyphenyl)butyl]-1,2,4-triazole was allowed to react with 4-chloromethyl-5-methyl-2-(2-naphthyl)oxazole to give 1-[4-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]butyl]-1,2,4-triazole. The yield was 54%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 134-135° C.

reactant | 1-[4-(4-hydroxyphenyl)butyl]-1,2,4-triazole | OC1=CC=C(C=C1)CCCCN1N=CN=C1 | C12H15N3O
reactant | 4-chloromethyl-5-methyl-2-(2-naphthyl)oxazole | ClCC=1N=C(OC1C)C1=CC2=CC=CC=C2C=C1 | C15H12ClNO
product | 1-[4-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]butyl]-1,2,4-triazole | yield was 54% | CC1=C(N=C(O1)C1=CC2=CC=CC=C2C=C1)COC1=CC=C(C=C1)CCCCN1N=CN=C1 | C27H26N4O2
